US05723165
To a solution of 5.30 g (8.0 mmols) of N-benzyloxycarbonyl-β-benzyl-L-aspartyl-O-benzyl-D-threonine (S)-α-ethylbenzylamide in 150 ml of methanol were added 1.0 ml of acetic acid and 3.0 g of 5% Pd-carbon (water content 50%), and the mixture was reduced under hydrogen overnight at room temperature and then at 50° C. for 3 hours. The catalyst was removed by filtration, the resulting filtrate was concentrated under reduced pressure, and the residue was crystallized from water to obtain 1.60 g (4.6 mmols) of α-L-aspartyl-D-threonine (S)-α-ethylbenzylamide.

reactant | N-benzyloxycarbonyl-β-benzyl-L-aspartyl-O-benzyl-D-threonine (S)-α-ethylbenzylamide | 8.0 mmols, 5.30 g | C(C)[C@@H](C1=CC=CC=C1)NC([C@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C(O)=O)CC1=CC=CC=C1)=O)[C@@H](OCC1=CC=CC=C1)C)=O | C39H43N3O7
reactant | acetic acid | 1.0 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 150 ml | CO | CH4O
catalyst | Pd carbon | 3.0 g | [Pd].[C]
product | α-L-aspartyl-D-threonine (S)-α-ethylbenzylamide | 4.6 mmols, 1.60 g | C(C)[C@@H](C1=CC=CC=C1)NC([C@H](NC([C@@H](N)CC(O)=O)=O)[C@@H](O)C)=O | C17H25N3O5
